US06028032
37% Aqueous formaldehyde solution (17.3 g) was added over 10 minutes to a stirred solution of benzyl 2-amino-2-methylpropanoate (28.0 g) in diethyl ether at ambient temperature. The two phase mixture was stirred for 21/2 hours then diluted with diethyl ether and washed with brine. The ethereal solution was dried (magnesium sulphate) and solvent evaporated under reduced pressure to give benzyl 2-(N-methyleneamino)-2-methylpropanoate (29.4 g) in equilibrium with its trimer 1,3,5-tri(1-benzyloxycarbonyl-1-methylethyl)hexahydrotriazine as a colourless oil, IR (liquid film) 2980(m), 1725(vs), 1250(m), 1135(vs).

reactant | formaldehyde | 17.3 g | C=O | CH2O
reactant | benzyl 2-amino-2-methylpropanoate | 28.0 g | NC(C(=O)OCC1=CC=CC=C1)(C)C | C11H15NO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | benzyl 2-(N-methyleneamino)-2-methylpropanoate | 29.4 g | C=NC(C(=O)OCC1=CC=CC=C1)(C)C | C12H15NO2
